US06635638B2
1-(3,4-Methylenedioxyphenyl)-2-(pyridin-4-yl)methyl-2,3,4,9-tetrahydro-1H-β-carboline
A solution of 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (2.92 g, 10 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24), 4-picolylchloride hydrochloride (1.64 g, 10 mmol) and DBU (3.1 g, 20 mmol) in DMF (50 mL) was stirred at room temperature for 16 h. Water (100 mL) and ethyl acetate (100 mL) were added to the reaction mixture. The solute, present in the organic phase, was purified by column chromatography (silica gel, ethyl acetate) to yield the product as an off-white solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 10 mmol, 2.92 g | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | 4-picolylchloride hydrochloride | 10 mmol, 1.64 g | Cl.N1=CC=C(C=C1)CCl
reactant | DBU | 20 mmol, 3.1 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Water | 100 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-Methylenedioxyphenyl)-2-(pyridin-4-yl)methyl-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)CC1=CC=NC=C1 | C24H21N3O2
